*----------------------------------------------------------------------
* SPICE Model generated by Murata Manufacturing Co., Ltd.
* Copyright(C) Murata Manufacturing Co., Ltd.
* Description :2012M(0805)/C0G(-55to125[deg])/1.50e-03[uF]/250[V]
* Murata P/N :GCM21A5C2E152GX01
* Property : C = 1.50e-03[uF]
* Data Generated on Jan 30, 2024
*----------------------------------------------------------------------
* Applicable Conditions:
*   Frequency Range = 1000[kHz]-1000[MHz]
*   Temperature = 25 degC
*   DC Bias Voltage = 0V
*   Small Signal Operation
*----------------------------------------------------------------------
.SUBCKT GCM21A5C2E152GX01 Port1 Port2
C01 Port1 N01 1.50e-09
R01 Port1 N01 1.00e+11
L02 N01 N02 1.18e-10
R03 N02 N03 1.98e-02
C04 N03 N04 4.32e-08
R04 N03 N04 7.60e+01
L05 N04 N05 9.18e-11
R05 N04 N05 2.85e-02
C06 N05 N06 2.48e-08
L06 N05 N06 4.68e-12
R06 N05 N06 1.01e-01
C07 N06 N07 2.14e-09
L07 N06 N07 2.01e-11
R07 N06 N07 3.75e-01
C08 N07 N08 7.64e-11
L08 N07 N08 5.42e-11
R08 N07 N08 3.88e-01
C09 N08 Port2 6.87e-13
L09 N08 Port2 4.05e-10
R09 N08 Port2 3.04e+02
.ENDS GCM21A5C2E152GX01
